US07767672B2
4-[4-Azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-benzoic acid
A 50 ml round bottom flask equipped with a condenser was charged with 4-[4-azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-benzoic acid methyl ester (800 mg, 2.0 mmol), 2M sodium hydroxide aqueous solution (5 ml), tetrahydrofuran (30 ml) and methanol (5 ml). The reaction mixture was heated to reflux for one hour. The reaction mixture was allowed to cool to room temperature and concentrated in vacuo. The solid residue was taken up in methanol (30 ml) and concentrated hydrochloric acid (1 ml). The solvent was then removed under reduced pressure to give the title compound (0.84 g, 100%) as a mono HCl salt. 1H NMR (DMSO) 2.05-2.10 (3H, s), 2.20-2.30 (2H, m), 3.80-3.85 (2H, t), 4.05-4.10 (2H, S), 7.40-7.45 (2H, d), 7.85-7.90 (2H, d). MS (ES+): 383

reactant | 4-[4-azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-benzoic acid methyl ester | 2.0 mmol, 800 mg | COC(C1=CC=C(C=C1)SC1=NC(=CC(=N1)N1CCC1)NC=1NN=C(C1)C)=O | C19H20N6O2S
reactant | sodium hydroxide | 2M, 5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 4-[4-Azetidin-1-yl-6-(5-methyl-2H-pyrazol-3-ylamino)-pyrimidin-2-ylsulfanyl]-benzoic acid | 0.84 g, 100% | N1(CCC1)C1=NC(=NC(=C1)NC=1NN=C(C1)C)SC1=CC=C(C(=O)O)C=C1 | C18H18N6O2S
